US08124606B2
(S)-3-(hydroxymethyl)-6a,7,8,9-tetrahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-6(5H)-one (100 mg, 0.456 mmol), 3-methyl-4-(piperazin-1-yl)benzonitrile (92 mg, 0.456 mmol), (cyanomethyl)trimethylphosphonium iodide (166 mg, 0.684 mmol) and N,N-diisopropylethylamine (0.398 ml, 2.281 mmol) were suspended in propiononitrile (Volume: 1.370 ml) and heated in a closed vial at 90-120° C. for 4 h. The reaction mixture became a dark brown solution. It was cooled to room temperature, concentrated in vacuo, dissolved in DMSO (2 mL) and purified using HPLC (basic, 10-95% ACN in water). The fractions were concentrated in vacuo and the resulting solid was recrystallized from water (6 mL) and dried in vacuum to afford (S)-3-methyl-4-(4-((6-oxo-5,6,6a,7,8,9-hexahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzonitrile (90.1 mg, 0.224 mmol, 49.1% yield) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.85-2.01 (m, 3H) 2.12-2.21 (m, 1H) 2.24 (s, 3H) 2.43-2.55 (m, 4H) 2.85-2.97 (m, 4H) 3.35-3.44 (m, 3H) 3.53-3.63 (m, 1H) 3.95-4.03 (m, 1H) 6.98 (d, J=2.02 Hz, 1H) 7.05-7.12 (m, 1H) 7.54-7.60 (m, 2H) 7.62 (d, J=1.77 Hz, 1H) 10.44 (s, 1H). [M+H] calc'd for C23H26N6O, 403. found, 403.

reactant | (S)-3-(hydroxymethyl)-6a,7,8,9-tetrahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-6(5H)-one | 0.456 mmol, 100 mg | OCC1=CC=2NC([C@H]3N(C2N=C1)CCC3)=O | C11H13N3O2
reactant | 3-methyl-4-(piperazin-1-yl)benzonitrile | 0.456 mmol, 92 mg | CC=1C=C(C#N)C=CC1N1CCNCC1 | C12H15N3
reactant | (cyanomethyl)trimethylphosphonium iodide | 0.684 mmol, 166 mg | [I-].C(#N)C[P+](C)(C)C
reactant | N,N-diisopropylethylamine | 2.281 mmol, 0.398 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | propiononitrile | 1.370 ml | C(CC)#N | C3H5N
product | (S)-3-methyl-4-(4-((6-oxo-5,6,6a,7,8,9-hexahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzonitrile | 0.224 mmol, 90.1 mg, 49.1% yield | CC=1C=C(C#N)C=CC1N1CCN(CC1)CC1=CC=2NC([C@H]3N(C2N=C1)CCC3)=O | C23H26N6O
